US06967196B1
1,1-dimethylethyl(5R)-5-[(2,5-dichlorophenyl)-[(4-chlorophenyl)sulfonyl]-amino]hexanoate (700 g, 1.40 mmol) was treated with a 50% solution of trifluoroacetic acid in dichloromethane (20 mL). After 3 h the reaction was diluted with dichloromethane then washed with water, brine and dried over MgSO4. Concentration under reduced pressure afforded (5R)-5-[(2,5-dichlorophenyl][(4-chlorophenyl)sulfonyl]-amino]hexanoic acid in quantitiative yield. MS (ESI), (M−H−) 450. IR-2975,1706,1466,1348.

reactant | 1,1-dimethylethyl(5R)-5-[(2,5-dichlorophenyl)-[(4-chlorophenyl)sulfonyl]-amino]hexanoate | 1.40 mmol, 700 g | ClC1=C(C=C(C=C1)Cl)N([C@@H](CCCC(=O)OC(C)(C)C)C)S(=O)(=O)C1=CC=C(C=C1)Cl | C22H26Cl3NO4S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (5R)-5-[(2,5-dichlorophenyl][(4-chlorophenyl)sulfonyl]-amino]hexanoic acid | ClC1=C(C=C(C=C1)Cl)N([C@@H](CCCC(=O)O)C)S(=O)(=O)C1=CC=C(C=C1)Cl | C18H18Cl3NO4S
